US07776875B2
Preparation of Racemic (2′S,3S,4′R)-4′-[5-bromo-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
A solution of racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (20 mg, 0.032 mmol) and CDI (11 mg, 0.064 mmol) in DMF (0.2 mL) was heated at 60° C. for 30 min, then cooled to room temperature. To this solution was added a mixture of methanesulfonamide (19 mg, 0.2 mmol) and NaH (8 mg, 60%, 0.2 mmol) in DMF (0.2 mL). The resulting mixture was stirred at room temperature for 10 min, purified by prep-HPLC to give the title compound as a white solid (10 mg).

reactant | racemic (2′S,3S,4′R)-4′-[5-bromo-2-(1-hydroxycarbonyl-1-methyl-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.032 mmol, 20 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C)(C)C(=O)O | C29H25BrClFN2O5
reactant | CDI | 0.064 mmol, 11 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | methanesulfonamide | 0.2 mmol, 19 mg | CS(=O)(=O)N | CH5NO2S
reactant | NaH | 0.2 mmol, 8 mg | [H-].[Na+]
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | Racemic (2′S,3S,4′R)-4′-[5-bromo-2-(2-methanesulfonylamino-1,1-dimethyl-2-oxo-ethoxy)-phenyl]-6-chloro-2′-(5-fluoro-2-methyl-phenyl)-spiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 10 mg | BrC=1C=CC(=C(C1)C1C2(C(NC(C1)=O)C1=C(C=CC(=C1)F)C)C(NC1=CC(=CC=C12)Cl)=O)OC(C(=O)NS(=O)(=O)C)(C)C | C30H28BrClFN3O6S
